US06921753B2
(2S,3S,4R,5R)-5-{2-({[(Benzylamino)carbonyl]amino}methyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide
Benzylisocyanate (26 mg, 0.30 mmol) was added to a solution of (2S,3S,4R,5R)-5-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide (Preparation 11) in dichloromethane (2 ml). The reaction mixture was stirred for 16 hours at room temperature and allowed to evaporate. Ethanol (2 ml) was added and then aqueous hydrochloric acid (1 M, 1 ml) was added. The reaction mixture was stirred at 60° C. for 6 hours, then allowed to cool to room temperature and left for a further 16 h. More aqueous hydrochloric acid (1M, 0.5 ml) was added and the reaction mixture was stirred at room temperature for a further 4 h. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol (95:5 by volume) increasing in polarity to dichloromethane:methanol (90:10 by volume). The material obtained was impure and hence was repurified by column chromatography on silica gel eluting with dichloromethane:methanol (95:5 by volume) increasing in polarity to dichloromethane:methanol (90:10 by volume) to give the title compound as a solid (85 mg).

reactant | Benzylisocyanate | 0.30 mmol, 26 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | (2S,3S,4R,5R)-5-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | NCC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31N7O4
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2S,3S,4R,5R)-5-{2-({[(Benzylamino)carbonyl]amino}methyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | 85 mg | C(C1=CC=CC=C1)NC(=O)NCC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C35H38N8O5
